US04959363
A mixture of 32.6 g ethyl 7-acetyl-1,4-dihydro1-ethyl-4-oxo-3-quinolinecarboxylate, 24 ml dimethylacetamide dimethylacetal and 100 ml DMF was heated on a steam bath for 4 hrs. The reaction mixture was concentrated in vacuo and the solid residue triturated with ethyl acetate. The solid product was recrystallized from acetonitrile to give 20.9 g ethyl 7-[3-(dimethylamino)-1-oxo2-butenyl]-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylate, yellowish-orange powder, m.p. 178-179.5° C.

reactant | ethyl 7-acetyl-1,4-dihydro1-ethyl-4-oxo-3-quinolinecarboxylate | 32.6 g | C(C)(=O)C1=CC=C2C(C(=CN(C2=C1)CC)C(=O)OCC)=O | C16H17NO4
reactant | dimethylacetamide dimethylacetal | 24 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | ethyl 7-[3-(dimethylamino)-1-oxo2-butenyl]-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 20.9 g | CN(C(=CC(=O)C1=CC=C2C(C(=CN(C2=C1)CC)C(=O)OCC)=O)C)C | C20H24N2O4
